US09062004B2
4-Bromo-5-(2-dimethylaminoethyl)amino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one was prepared from 4,5-Dibromo-2-(3,3,5,5-tetramethyl cyclohexyl)pyridazin-3-one in a similar manner using 2-Dimethylaminoethyl amine (4 equivalents). 1H NMR (300 MHz CDCl3) 7.51 (s, 1H), 5.53 (m, 1H), 5.33 (m, 1H), 3.34 (m, 2H), 2.60 (m, 2H), 2.3 (s, 6H), 1.55 (m, 4H), 1.3 (m, 1H), 1.15 (m, 1H), 1.15 (s, 6H), 0.95 (s, 6H).

reactant | 4,5-Dibromo-2-(3,3,5,5-tetramethyl cyclohexyl)pyridazin-3-one | BrC=1C(N(N=CC1Br)C1CC(CC(C1)(C)C)(C)C)=O | C14H20Br2N2O
reactant | 2-Dimethylaminoethyl amine | 4 equivalents | CN(CCN)C | C4H12N2
product | 4-Bromo-5-(2-dimethylaminoethyl)amino-2-(3,3,5,5-tetramethylcyclohexyl)pyridazin-3-one | BrC=1C(N(N=CC1NCCN(C)C)C1CC(CC(C1)(C)C)(C)C)=O | C18H31BrN4O
